US04021479
4-(2',4'-Difluoro-4-biphenylyl)-butyric acid
Prepared analogous to Example 1 from 4-(2',4'-difluoro-4-biphenylyl)-4-oxo-butyric acid. Yield: 39% of theory; m.p. 76°-77° C. (from cyclohexane). Melting point of the cyclohexylamine salt: 127°-128° C. (from ethyl acetate/methanol 9:1).

reactant | 4-(2',4'-difluoro-4-biphenylyl)-4-oxo-butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12F2O3
reactant | cyclohexane | C1CCCCC1 | C6H12
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 4-(2',4'-Difluoro-4-biphenylyl)-butyric acid | Yield: 39% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)CCCC(=O)O | C16H14F2O2
